US09284323B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(6-cyano-4-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate:
A mixture of (S)-ethyl 2-tert-butoxy-2-(6-chloro-4-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate (0.2186 g, 0.593 mmol), zinc(II) cyanide (0.0695 g, 0.593 mmol), XPhos Palladacycle (0.044 g, 0.0593 mmol) and sodium bicarbonate (0.005 g, 0.0593 mmol) in anhydrous DMF (3.0 mL) was heated in a microwave at 100° C. for 1 hour. The reaction mixture was diluted with water and extracted with ethyl acetate (2×). The Combined organic layer was washed with 5% lithium chloride solution, brine, dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 0 to 15% ethyl acetate/hexanes) to give the desired product. LCMS-ESI+ (m/z): [M+H]+ calcd for C20H21FNO4: 358.2. Found: 357.9.

reactant | (S)-ethyl 2-tert-butoxy-2-(6-chloro-4-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate | 0.593 mmol, 0.2186 g | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C(=C1C)F)Cl)O | C19H22ClFO4
reactant | sodium bicarbonate | 0.0593 mmol, 0.005 g | C([O-])(O)=O.[Na+]
reactant | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | zinc(II) cyanide | 0.593 mmol, 0.0695 g | [C-]#N.[Zn+2].[C-]#N
catalyst | XPhos Palladacycle | 0.0593 mmol, 0.044 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
product | (S)-ethyl 2-tert-butoxy-2-(6-cyano-4-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C1=C(C2=CC=C(C=C2C(=C1C)F)C#N)O | C20H22FNO4
